US07262212B2
2-Chloro-4-nitro-1H-imidazole (1.51 g, 10.17 mmol) and (R)-2-methyloxiran-2-ylmethyl 4-methylbenzene sulfonate (3.70 g, 15.25 mmol) were suspended in acetonitrile (150 ml). Benzyl(triethyl)ammonium chloride (0.23, 1.02 mmol) was added to this suspension, and the resulting mixture was stirred under reflux for 10 hours. After the reaction mixture was allowed to return to room temperature, ethyl acetate was added to the solution. The resulting mixture was washed with an aqueous sodium hydrogencarbonate, dried over magnesium sulfate and then filtered. The filtrate was concentrated under reduced pressure and dissolved in ethyl acetate (40 ml). DBU (1.57 ml, 10.17 mmol) was added to the solution with cooling on ice-bath, and the resulting mixture was stirred at room temperature for 1.5 hours. The reaction mixture was washed with water, dried over magnesium sulfate, and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=7/3) to afford (R)-2-chloro-1-(2-methyloxiran-2-ylmethyl)-4-nitroimidazole (1.50 g, yield 68%) as a light yellow oil.

reactant | 2-Chloro-4-nitro-1H-imidazole | 10.17 mmol, 1.51 g | ClC=1NC=C(N1)[N+](=O)[O-] | C3H2ClN3O2
reactant | (R)-2-methyloxiran-2-ylmethyl 4-methylbenzene sulfonate | 15.25 mmol, 3.70 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@]1(OC1)C | C11H14O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DBU | 10.17 mmol, 1.57 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
catalyst | Benzyl(triethyl)ammonium chloride | 1.02 mmol | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | (R)-2-chloro-1-(2-methyloxiran-2-ylmethyl)-4-nitroimidazole | 1.50 g, yield 68% | ClC=1N(C=C(N1)[N+](=O)[O-])C[C@]1(OC1)C | C7H8ClN3O3
